US05880130
Using an analogous reaction procedure to that described in Example 23, 4-(4'-hydroxyanilino)-6-(3'-methylanilino)pyrimidine (0.6 g) was reacted with 3-dimethylaminopropyl chloride. The product so obtained was chromatographed on silica and precipitated from a mixture of methylene chloride, methanol and hexane to give 4-[4'-(3-dimethylaminopropoxy)anilino]6-(3'-methylanilino)pyrimidine in 13% yield, m.p. 204°-207° C.;

reactant | 4-(4'-hydroxyanilino)-6-(3'-methylanilino)pyrimidine | 0.6 g | OC1=CC=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=C1 | C17H16N4O
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
product | 4-[4'-(3-dimethylaminopropoxy)anilino]6-(3'-methylanilino)pyrimidine | 13% yield | CN(CCCOC1=CC=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=C1)C | C22H27N5O
